US06417192B1
A mixture of methyl 3-(5-pyrimidyl)propionate (13.1 g) and methyl formate (7.1 ml) dissolved in dry dimethoxyethane (20 ml) was added portionwise to a suspension of sodium hydride (60%, 4.0 g) in DME (10 ml) under argon. Reaction initiated rapidly and was stirred for a further 2 h, diluted with dry diethyl ether (50 ml) and filtered. The solid so separated was washed with further diethyl ether (50 ml) and was dried in vacuo to give a solid that was dissolved in dry dimethyl formamide (50 ml) and potassium carbonate (11.3 g) added under argon. A solution of dimethyl sulfate (7.0 ml) was, then added over 1 hour. The mixture was stirred for 18 h and the solvent removed in vacuo. The residue was partitioned between ethyl acetate (200 ml) and water (100 ml). The aqueous layer was re-extracted with ethyl acetate (2×100 ml) and the combined ethyl acetate layers washed with brine (50 ml) and dried over sodium sulfate. The solvent was removed in vacuo to give methyl 2((5-pyrimidyl)methyl)-3-methoxyacrylate (9.1 g).

reactant | methyl 3-(5-pyrimidyl)propionate | 13.1 g | N1=CN=CC(=C1)CCC(=O)OC | C8H10N2O2
reactant | methyl formate | 7.1 ml | C(=O)OC | C2H4O2
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | potassium carbonate | 11.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 7.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 2((5-pyrimidyl)methyl)-3-methoxyacrylate | 9.1 g | N1=CN=CC(=C1)CC(C(=O)OC)=COC | C10H12N2O3
